US09108957B2
To a mixture of 4-[4-((R)-1-phenyl-ethyl)-[1,4]oxazepan-7-yl]-benzonitrile (diastereomer type A) (0.68 g, 2.2 mmol) in ethanol (5 mL) and water (3 mL) was added hydroxylamine hydrochloride (0.46 g, 6.6 mmol) and sodium bicarbonate (1.20 g, 11 mmol) at room temperature and the resulting mixture was heated to 80° C. After stirring for 2 hours, the reaction mixture was evaporated for removal of ethanol and diluted with water and chloroform. The organic phase was separated from aqueous phase and dried over anhydrous sodium sulfate. After concentration, half of the residue (0.39 g) was dissolved in xylene (3 mL) and dimethylacetamide dimethylacetal was added at room temperature. The mixture was refluxed for 3 hours and concentrated. The residual material was purified by flash column chromatography on silica gel to yield 7-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)-phenyl]-4-((R)-1-phenyl-ethyl)-[1,4]oxazepane (diastereomer type A) (0.33 g, 0.92 mmol, 83%).

reactant | 4-[4-((R)-1-phenyl-ethyl)-[1,4]oxazepan-7-yl]-benzonitrile | C1(=CC=CC=C1)[C@@H](C)N1CCOC(CC1)C1=CC=C(C#N)C=C1 | C20H22N2O
reactant | water | 3 mL | O | H2O
reactant | hydroxylamine hydrochloride | 6.6 mmol, 0.46 g | Cl.NO
reactant | sodium bicarbonate | 11 mmol, 1.20 g | C([O-])(O)=O.[Na+]
reactant | ethanol | 5 mL | C(C)O | C2H6O
product | 7-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)-phenyl]-4-((R)-1-phenyl-ethyl)-[1,4]oxazepane | CC1=NC(=NO1)C1=CC=C(C=C1)C1CCN(CCO1)[C@H](C)C1=CC=CC=C1 | C22H25N3O2
